US03957871
4-(Phenylethynyl)-benzyl chloride
Thionyl chloride, 7 ml., is added dropwise to a stirred solution of 6.0 g. (0.0288 mole) of 4-(phenylethynyl) benzyl alcohol in 100 ml. of dry chloroform at room temperature and the mixture is stirred for 6 hours. Solvent is evaporated under reduced pressure and at a temperature below 50°. The residue is freed from traces of thionyl chloride by dissolution in dry benzene and evaporation under reduced pressure. This process is repeated and the residual solid product is purified by sublimation in vacuo; m.p. 61.5°-63.5°C.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(phenylethynyl) benzyl alcohol | 0.0288 mole | C1(=CC=CC=C1)C#CC1=CC=C(CO)C=C1 | C15H12O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Phenylethynyl)-benzyl chloride | C1(=CC=CC=C1)C#CC1=CC=C(CCl)C=C1 | C15H11Cl
